US08486979B2
5-(3-nitrophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-nitrobenzoyl chloride (Aldrich). 1H NMR (300 MHz, CDCl3) δ 7.44-7.55 (m, 1 H), 7.82 (t, J=8.3 Hz, 1 H), 8.43-8.60 (m, 3 H), 8.80 (dd, J=4.7, 1.7 Hz, 1 H), 9.07-9.13 (m, 1 H), 9.42 (d, J=2.0 Hz, 1 H) ppm; MS (DCI/NH3) m/z 269 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | NH3 | N | H3N
product | 5-(3-nitrophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | [N+](=O)([O-])C=1C=C(C=CC1)C1=NC(=NO1)C=1C=NC=CC1 | C13H8N4O3
